US04596816
A mixture of 5-(2-chloroethyl)-2-methyl-4-phenyloxazole (9.8 g), sodium iodide (9.9 g) and methyl ethyl ketone (150 ml) was refluxed with stirring for 20 hours. The solvent was distilled off and the residue was diluted with water and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off to give an oil of 5-(2-iodoethyl)-2-methyl-4-phenyloxazole, yield 11.5 g (82.9%).

reactant | 5-(2-chloroethyl)-2-methyl-4-phenyloxazole | 9.8 g | ClCCC1=C(N=C(O1)C)C1=CC=CC=C1 | C12H12ClNO
reactant | sodium iodide | 9.9 g | [I-].[Na+]
solvent | methyl ethyl ketone | 150 ml | C(C)C(=O)C | C4H8O
product | 5-(2-iodoethyl)-2-methyl-4-phenyloxazole | ICCC1=C(N=C(O1)C)C1=CC=CC=C1 | C12H12INO
